US08039469B2
Step 1: Preparation of 3-[(4-Chloro-6-morpholin-4-yl-[1,3,5]triazin-2-ylamino)-methyl]-azetidine-1-carboxylic acid tert-butyl ester
To a solution of the 3-aminomethyl-azetidine-1-carboxylic acid tert-butyl ester HCl salt (945 mg, 4.24 mmol) and NEt3 (856 mg, 8.48 mmol) in THF (10 mL) at 0° C. was added a suspension of 2,4-dichloro-6-morpholin-4-yl-[1,3,5]triazine (996 mg, 4.24 mmol) at 0° C. The reaction mixture was stirred for another 1 hr at 0° C. and allowed to warm to 20° C. and stirred for 1-4 hrs to drive the reaction to completion. Silica gel (20 g) was added to the reaction mixture and the solvent was removed so that product was adsorbed on the silica gel. The silica gel plug was placed on top of a column to purify by flash chromatography using CH2Cl2/MeOH/NH3 (20:1:01) eluent. After unifying the product fraction, and evaporation of solvent, (750 mg, 46% yield) product was obtained as yellow solid; MS (ESI) m/z 385

reactant | 3-aminomethyl-azetidine-1-carboxylic acid tert-butyl ester HCl salt | 4.24 mmol, 945 mg | Cl.C(C)(C)(C)OC(=O)N1CC(C1)CN
reactant | NEt3 | 8.48 mmol, 856 mg | CCN(CC)CC | C6H15N
reactant | 2,4-dichloro-6-morpholin-4-yl-[1,3,5]triazine | 4.24 mmol, 996 mg | ClC1=NC(=NC(=N1)Cl)N1CCOCC1 | C7H8Cl2N4O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-[(4-Chloro-6-morpholin-4-yl-[1,3,5]triazin-2-ylamino)-methyl]-azetidine-1-carboxylic acid tert-butyl ester | 750 mg, 46% yield | C(C)(C)(C)OC(=O)N1CC(C1)CNC1=NC(=NC(=N1)Cl)N1CCOCC1 | C16H25ClN6O3
